US08492397B2
To a solution of 4-nitrophenyl (2S)-1,1,1-trifluoropropan-2-yl carbonate (2.20 g) in CHCl3 (30 ml) was added (3S)-1-benzylpyrrolidin-3-amine (1.39 g) at room temperature. The resulting mixture was refluxed for 2 hours and then cooled to room temperature. The mixture was purified with silica gel column chromatography (eluent:hexane/EtOAc=1/0˜0/1) to give (2S)-1,1,1-trifluoropropan-2-yl [(3S)-1-benzylpyrrolidin-3-yl]carbamate as a pale yellow oil.

reactant | 4-nitrophenyl (2S)-1,1,1-trifluoropropan-2-yl carbonate | 2.20 g | C(OC1=CC=C(C=C1)[N+](=O)[O-])(O[C@H](C(F)(F)F)C)=O | C10H8F3NO5
reactant | (3S)-1-benzylpyrrolidin-3-amine | 1.39 g | C(C1=CC=CC=C1)N1C[C@H](CC1)N | C11H16N2
solvent | CHCl3 | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | (2S)-1,1,1-trifluoropropan-2-yl [(3S)-1-benzylpyrrolidin-3-yl]carbamate | C(C1=CC=CC=C1)N1C[C@H](CC1)NC(O[C@H](C(F)(F)F)C)=O | C15H19F3N2O2
